US07915271B2
To a solution of methyl 4′-methoxy-2-methyl-2″-{[(4S,5R)-4-methyl-2-oxo-5-pyridin-4-yl-1,3-oxazolidin-3-yl]methyl}-4″-(trifluoromethyl)-1,1′:3′,1″-terphenyl-4-carboxylate (175 mg, 0.296 mmol) in CH2Cl2 (15 mL) at 0° C. under N2, was added 3-chloroperbenzoic acid (146 mg, 0.593 mmol) as a powder. The mixture was stirred at 0° C. for 15 min. Then it was allowed to warm up to room temperature and stirred for 2 h. The reaction mixture was diluted with CH2Cl2 and washed with satd Na2SO3 (1×) followed by satd K2CO3 (2×). The organic layer was dried (Na2SO4), filtered and the solvent was evaporated in vacuo. The residue obtained was dissolved in POCl3 (10 mL). The resulting solution was heated at 110° C. under N2 for 2 h. Then it was allowed to warm to room temperature and stirred for 2 h. The reaction was concentrated in vacuo. The residue was diluted with EtOAc (50 mL) and water (10 mL) and washed with satd NaHCO3 (20 mL). The aqueous layer was extracted with EtOAc (2×40 mL). The combined organic layers were dried (Na2SO4), filtered and the solvent was evaporated in vacuo. The residue was purified by flash chromatography on silica gel to give methyl 2″-{[(4S,5R)-5-(2-chloropyridin-4-yl)-4-methyl-2-oxo-1,3-oxazolidin-3-yl]methyl}-4′-methoxy-2-methyl-4″-(trifluoromethyl)-1,1′:3′,1″-terphenyl-4-carboxylate. LCMS calc.=625.2; found=625.0 (M+1)+. 1H NMR (500 MHz, CDCl3, 1:1 mixture of atropisomers) δ 8.40 (s, 0.5H); 8.39 (s, 0.5H); 7.97 (s, 1H); 7.90 (t, J=5.8 Hz, 1H); 7.72 (s, 0.5H); 7.69-7.63 (m, 1.5H); 7.48 (d, J=11.8 Hz, 0.5H); 7.44 (s, 0.5H); 7.43-7.37 (m, 1H); 7.32-7.26 (m, 1H); 7.24 (s, 0.5H); 7.20 (s, 0.5H); 7.16 (d, J=2.2 Hz, 0.5H); 7.14 (d, J=2.2 Hz, 0.5H); 7.12-7.06 (m, 1.5H); 7.05 (d, J=5.1 Hz, 0.5H); 5.42 (d, J=8.1 Hz, 0.5H); 5.18 (d, J=8.1 Hz, 0.5H); 4.92 (dd, J=15.9, 18.5 Hz, 1H); 4.19 (d, J=15.8 Hz, 0.5H); 3.99 (d, J=15.8 Hz, 0.5H); 3.95 (s, 3H); 3.88 (s, 3H); 3.81-3.75 (m, 1H); 2.39 (s, 1.5H); 2.35 (s, 1.5H); 0.60 (d, J=6.5 Hz, 1.5H); 0.49 (d, J=6.5 Hz, 1.5H).

reactant | methyl 4′-methoxy-2-methyl-2″-{[(4S,5R)-4-methyl-2-oxo-5-pyridin-4-yl-1,3-oxazolidin-3-yl]methyl}-4″-(trifluoromethyl)-1,1′:3′,1″-terphenyl-4-carboxylate | 0.296 mmol, 175 mg | COC1=C(C=C(C=C1)C1=C(C=C(C=C1)C(=O)OC)C)C1=C(C=C(C=C1)C(F)(F)F)CN1C(O[C@@H]([C@@H]1C)C1=CC=NC=C1)=O | C33H29F3N2O5
reactant | 3-chloroperbenzoic acid | 0.593 mmol, 146 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
solvent | POCl3 | 10 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | methyl 2″-{[(4S,5R)-5-(2-chloropyridin-4-yl)-4-methyl-2-oxo-1,3-oxazolidin-3-yl]methyl}-4′-methoxy-2-methyl-4″-(trifluoromethyl)-1,1′:3′,1″-terphenyl-4-carboxylate | ClC1=NC=CC(=C1)[C@@H]1[C@@H](N(C(O1)=O)CC1=C(C=CC(=C1)C(F)(F)F)C=1C=C(C=CC1OC)C1=C(C=C(C=C1)C(=O)OC)C)C | C33H28ClF3N2O5
